Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___: Colonoscopy with biopsies 

 
History of Present Illness:
___ who presents with one week of constipation which she
attributes to eating ___ seed pudding last ___. She 
reports
rectal tenesmus but is unable to pass any stool despite using
multiple laxative agents including: Dulcolax, miralax, mild of
magnesia, fleet enemas, soap suds enema. She also reports nausea
and vomiting today. She is passing flatus. Her last colonoscopy
was done in ___ but the report is not available online. 

 
Past Medical History:
PMH: Fibroadenoma, herpes labialis, allergic rhinitis
PSH: Lap CCY, knee surgery
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Admission Physical Exam:
T 97.4    HR 94    BP 145/61      RR 18     SatO2 95% RA 
NAD
Alert and oriented
RRR
CTA bil
Abdomen soft, non-tender, non-distended
Extremities no edema
Rectal exam: normal tone, no impacted stool

Discharge Physical Exam:
VS: 98.2, 116/55, 69, 18, 93 Ra
Gen: A&O x3, ambulating in room, NAD
CV: HRR
Pulm: LS ctab
Abd: soft, NT/ND
Ext: WWP no edema
 
 
Pertinent Results:
___ 05:34AM BLOOD WBC-6.0 RBC-3.60* Hgb-11.2 Hct-34.2 
MCV-95 MCH-31.1 MCHC-32.7 RDW-13.0 RDWSD-45.1 Plt ___
___ 08:23PM BLOOD WBC-14.0* RBC-4.27 Hgb-13.3 Hct-39.7 
MCV-93 MCH-31.1 MCHC-33.5 RDW-13.0 RDWSD-44.1 Plt ___
___ 05:34AM BLOOD Glucose-93 UreaN-10 Creat-0.9 Na-144 
K-4.5 Cl-110* HCO3-25 AnGap-9*
___ 08:23PM BLOOD Glucose-127* UreaN-14 Creat-0.9 Na-142 
K-3.9 Cl-99 HCO3-26 AnGap-17
___ 05:34AM BLOOD Calcium-8.4 Phos-2.7 Mg-2.0
___ 08:23PM BLOOD Albumin-4.5 Calcium-9.0 Phos-2.5* Mg-3.0*

CT A/P 
1. Sigmoid and distal descending colon wall thickening 
consistent
with colitis. Degree of large bowel distension proximally is
consistent with at least partial large bowel obstruction. Given
focal irregularity of the distal sigmoid colon, consider
colonoscopy after treatment. 
2. Abnormal endometrial thickening measuring approximately 7 mm.
Recommend nonemergent pelvic ultrasound for further evaluation. 
3. Partially imaged T7 compression deformity. Recommend
correlation with symptoms and physical exam. 

___: Colonoscopy:
Severe diverticulosis. Patchy areas of erythema, erosion, edema, 
decreased vascularity in descending colon

PATHOLOGIC DIAGNOSIS:
Distal descending colon, biopsy:
- Colonic mucosa with focal acute inflammation, nonspecific 
finding.

 
Brief Hospital Course:
___ presenting with one week of constipation and abdominal pain. 
CT scan showed an area of thickening and stranding around the 
sigmoid consistent with sigmoid colitis, and what appeared to be 
a partial large bowel obstruction. ___ noted to be 14. She was 
otherwise hemodynamically stable and in no acute distress. She 
was admitted for bowel rest, IV fluids, IV antibiotics. 
Gastroenterology was consulted. The patient was prepped and went 
for sigmoidoscopy / colonoscopy with biopsies taken. There was 
no evidence of an obstruction. There was evidence of colitis. 
After the colonoscopy, the patient was doing well. 

Diet was progressively advanced as tolerated to a regular diet 
with good tolerability and she continued to have good bowel 
function. The patient voided without problem. During this 
hospitalization, the patient ambulated early and frequently, was 
adherent with respiratory toilet and incentive spirometry, and 
actively participated in the plan of care. The patient received 
subcutaneous heparin and venodyne boots were used during this 
stay.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan. She was given a prescription to complete a 
course of antibiotics and had follow-up scheduled with GI. 

 
Medications on Admission:
DICLOFENAC SODIUM [VOLTAREN] - Voltaren 1 % topical gel. APPLY 
4G
OF GEL TO AFFECTED KNEE 4 TIMES A DAY FOR MAX DOSE OF 16G TOANY
SINGLE JOINT
FAMCICLOVIR - famciclovir 500 mg tablet. 3 tablets by mouth at
onset of cold sore
PENCICLOVIR [DENAVIR] - Denavir 1 % topical cream. APPLY 4 TIMES
A DAY AS NEEDED AS DIRECTED
VALACYCLOVIR - valacyclovir 1 gram tablet. 2 tablet(s) by mouth
bid x 2 days as needed for earliest sign of cold sore
ACETAMINOPHEN - acetaminophen 500 mg tablet. 2 tablet(s) by 
mouth
three times a day
CALCIUM CARBONATE-VITAMIN D3 [OS-CAL 500 + D3] - Dosage 
uncertain
FEXOFENADINE - fexofenadine 180 mg tablet. tablet(s) by mouth  - 

LACTOBACILLUS COMBINATION NO.4 [PROBIOTIC] - Dosage uncertain - 
MAGNESIUM CITRATE - magnesium citrate oral solution. 296 ml by
mouth use once -  (___)
MULTIVITAMIN - Dosage uncertain -  (Prescribed by Other 
Provider)
OMEGA-3 FATTY ACIDS - Dosage uncertain -  (___)

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*10 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*15 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Colitis
Partial large bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ with abdominal pain and were found on 
CT scan to have sigmoid and distal descending colon wall 
thickening consistent with colitis, as well as a partial large 
bowel obstruction. You were treated non-operatively with 
antibiotics, bowel rest and IV fluids. The Gastroenterology 
service was consulted, and recommended a colonoscopy. After 
bowel-prepping, you were taken on ___ for a colonoscopy. They 
saw in the distal descending colon there were patches of 
erosive, erythematous tissue, which was biopsied. However, due 
to poor prep, they could not complete the colonoscopy. They 
recommend a low residue / low fiber diet for 5 days and an 
extensive 2-day prep for a repeat colonoscopy with magnesium 
citrate.

You are now tolerating a regular diet and continuing to have 
bowel function. You are ready to be discharged home to continue 
your recovery.  

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids

You 
 
Followup Instructions:
___